data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-C(F)(F)F_2-C(C)(C)C_3-CCCC(C)C_4-C_5-c1ccccc1_6-c1ccccc1_7-C(C)(C)C","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C)c1ccccc1)(CCCC(C)C)C(C(F)(F)F)(C(C)(C)C)[Si](C)(C)C","C(=O)(c1ccccc1)C(C)(C)C","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C)c1ccccc1)(CCCC(C)C)C(C(F)(F)F)(C(C)(C)C)C(O)(c1ccccc1)C(C)(C)C"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(c1ccccc1)C(C)(C)C","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(C(F)(F)F)(C(C)(C)C)[C+](CCCC(C)C)C(C)(c1ccccc1)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)C(C)(C)C","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C)c1ccccc1)(CCCC(C)C)C(C(F)(F)F)(C(C)(C)C)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)C(C)(C)C","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)c1ccccc1)(CCCC(C)C)C(C(F)(F)F)(C(C)(C)C)C(O)(c1ccccc1)C(C)(C)C","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-049_1-C_2-C_3-c1ccccc1_4-c1ccccc1","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(C)C(C)S(C)","O=C(c1ccccc1)(c1ccccc1)"],"products_smiles": ["S(C)C(C)(C(O)(c1ccccc1)(c1ccccc1))S(C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)[C-](C)S(C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(C)(C([O-])(c1ccccc1)(c1ccccc1))S(C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(C)(C(O)(c1ccccc1)(c1ccccc1))S(C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
